US08084483B2
Lithium hydroxide solution (1M aqueous, 0.67 mL, 0.67 mmol) was added to a solution of ethyl 2-(4-(4-cyclopropylnaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate (0.1 g, 0.22 mmol) in THF (0.88 mL) and the mixture stirred at room temperature for 18 h. The crude reaction mixture was concentrated; water (100 mL) added and then washed with ethyl acetate (2×40 mL). The aqueous layer was acidified with HCl (1N aqueous, 10 mL) and extracted with ethyl acetate (30 mL). The combined organic extracts were dried over sodium sulfate and concentrated to afford 2-(4-(4-cyclopropylnaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoic acid as an off-white solid (49 mg, 53%).

reactant | Lithium hydroxide | 0.67 mmol, 1M, 0.67 mL | [OH-].[Li+]
reactant | ethyl 2-(4-(4-cyclopropylnaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate | 0.22 mmol, 0.1 g | C1(CC1)C1=CC=C(C2=CC=CC=C12)N1C(=NN=C1C(F)(F)F)SC(C(=O)OCC)(C)C | C22H22F3N3O2S
solvent | THF | 0.88 mL | C1CCOC1 | C4H8O
product | 2-(4-(4-cyclopropylnaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoic acid | 49 mg, 53% | C1(CC1)C1=CC=C(C2=CC=CC=C12)N1C(=NN=C1C(F)(F)F)SC(C(=O)O)(C)C | C20H18F3N3O2S
